US08871767B2
5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline
To a stirred solution of 6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine (0.5 g, 1.75 mmol) in ethanol (20 mL) and water (5 mL) containing AcOH (10.5 mmol) is added iron (0.491 g, 8.79 mmol). The mixture is heated at 80° C. for 4 hours, cooled, concentrated under reduced pressure, and sat. aqueous NaHCO3 (100 mL) is added. The mixture is extracted with EtOAc (3×50 mL), the organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography (hexanes to EtOAc) to afford the title compound (0.328 g, 73%) as a light yellow solid: Rf 0.21 (EtOAc); LCMS (m/z)=255.5 [M+H]+, tR=4.89 min. (10 min run).

reactant | 6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 1.75 mmol, 0.5 g | COC=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C14H12N4O3
reactant | AcOH | 10.5 mmol | CC(=O)O | C2H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | iron | 8.79 mmol, 0.491 g | [Fe] | Fe
product | 5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline | 0.328 g, 73% | COC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(N)C2)C | C14H14N4O
